US03940394
(4-Methoxy-6-phenyl-2-pyrimidinylthio)acetic acid
To a solution of 0.46 g of sodium metal in 50 ml. of absolute methanol was added 3.2 g of (4-chloro-6-phenyl-2-pyrimidinylthio)acetic acid ethyl ester as prepared in the preceding Example. The reaction mixture was heated under reflux for 3 hr. then filtered. The filtrate was taken to dryness in a rotary evaporator. The residue was dissolved in 30 ml. of 50% sodium hydroxide and the solution was diluted to 200 ml. The reaction mixture was allowed to stand at room temperature for 1.5 hr, cooled in ice and acidified with concentrated hydrochloric acid. The resulting precipitate was recrystallized from aqueous ethanol affording 1.4 g of product, mp. 157°-159°C.

reactant | sodium | 0.46 g | [Na] | Na
reactant | (4-chloro-6-phenyl-2-pyrimidinylthio)acetic acid ethyl ester | 3.2 g | C(C)OC(CSC1=NC(=CC(=N1)Cl)C1=CC=CC=C1)=O | C14H13ClN2O2S
reactant | methanol | CO | CH4O
product | (4-Methoxy-6-phenyl-2-pyrimidinylthio)acetic acid | COC1=NC(=NC(=C1)C1=CC=CC=C1)SCC(=O)O | C13H12N2O3S
